US07429605B2
1.67 g (1.017 ml, 14.02 mmol) thionyl chloride were added drop by drop at 0° C. to a solution of 0.2 ml N,N-dimethylformamide (DMF) and 2.0 g (70.1 mmol) [6-(2-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridin-3-yl]-methanol in 115 ml dichloromethane and stirred for 3 h at 0° C. The mixture was poured on ice/sodium bicarbonate solution and the organic phase separated. The water phase is extracted with dichloromethane. The combined organic phases were washed with water, dried (sodium sulphate) and evaporated. Chromatography on silica (eluent: ethyl acetate/n-heptane 1:6) gave 1.79 g (83%) of 3-Chloromethyl-6-(2-fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridine.

reactant | thionyl chloride | 14.02 mmol, 1.017 ml, 1.67 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | [6-(2-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridin-3-yl]-methanol | 70.1 mmol, 2.0 g | FC1=C(C=CC(=C1)C(F)(F)F)C1=CC=C(C(=N1)C)CO | C14H11F4NO
solvent | dichloromethane | 115 ml | ClCCl | CH2Cl2
product | 3-Chloromethyl-6-(2-fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridine | 1.79 g, 83% | ClCC=1C(=NC(=CC1)C1=C(C=C(C=C1)C(F)(F)F)F)C | C14H10ClF4N
